US09193719B2
3-((2-chloropyridin-4-yl)oxy)-2-ethyl-6-nitropyridine (1.0 g, 3.6 mmol) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.0 g, 4.6 mmol) were dissolved in dioxane (10 mL). A solution of K2CO3 (1.5 g, 10.6 mmol) in water (2 mL) was added and the mixture was sonicated and sparged with Ar for 10 min. Pd(PPh3)4 (0.21 g, 0.18 mmol) was added and the reaction mixture was stirred at 80° C. for 24 h. EtOAc (60 mL) was added and the mixture was washed with sat. NaHCO3 (aq) (60 mL) and brine (60 mL), dried (Na2SO4), and concentrated in vacuo to afford 2-ethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine (1.2 g, 100%) as a brown viscous oil that was carried forward without further purification. MS (ESI) m/z: 326.1 (M+H+).

reactant | 3-((2-chloropyridin-4-yl)oxy)-2-ethyl-6-nitropyridine | 3.6 mmol, 1.0 g | ClC1=NC=CC(=C1)OC=1C(=NC(=CC1)[N+](=O)[O-])CC | C12H10ClN3O3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.6 mmol, 1.0 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K2CO3 | 10.6 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.18 mmol, 0.21 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-ethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine | 1.2 g, 100% | C(C)C1=NC(=CC=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)[N+](=O)[O-] | C16H15N5O3
